US08431596B2
Cyclopropanecarboxylic acid [5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-amide (ZZ-001)
To a solution of 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine (0.04 g, 0.148 mmol) in dry acetonitrile (2 mL) was added triethylamine (0.052 mL, 0.371 mmol) followed by cyclopropanecarbonyl chloride (0.034 mL, 0.371 mmol). The reaction mixture was then allowed to warm to ambient temperature, and the solvent removed under reduced pressure. The crude product was purified by preparatory HPLC. 1H NMR (300 MHz, DMSO): 1.84-1.88 (m, 4H), 2.00-2.08 (m, 1H), 4.31-4.36 (m, 4H), 7.06 (d, 1H), 7.64 (d, 1H), 8.21 (dd, 1H), 8.35 (d, 1H), 8.39 (d, 1H), 11.37 (s, 1H). LCMS Method: 2: RT: 3.51 min, MI: 338 [M+1].

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine | 0.148 mmol, 0.04 g | O1CCOC2=C1C=CC(=C2)C2=NC=CC=1N2N=C(N1)N | C13H11N5O2
reactant | triethylamine | 0.371 mmol, 0.052 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.371 mmol, 0.034 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Cyclopropanecarboxylic acid [5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-amide | O1CCOC2=C1C=CC(=C2)C2=NC=CC=1N2N=C(N1)NC(=O)C1CC1 | C17H15N5O3
